US07235581B2
a) 1-(4-Trifluoromethyl-benzyloxy)-4-nitro-benzene
The title compound is prepared in analogy to Example 3a) from 4-fluoro-nitro-benzene and 4-trifluoromethyl-benzyl alcohol. Yield 82% of a slightly brown solid. Mp.=80.5–81.5° C.

reactant | 4-fluoro-nitro-benzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-trifluoromethyl-benzyl alcohol | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
product | 1-(4-Trifluoromethyl-benzyloxy)-4-nitro-benzene | Yield 82% | FC(C1=CC=C(COC2=CC=C(C=C2)[N+](=O)[O-])C=C1)(F)F | C14H10F3NO3
